US07754742B2
(4-Aminomethyl-3-fluoro-phenyl)-methanol
Add 1M lithium aluminum hydride in tetrahydrofuran (121 mL, 121 mmol) to anhydrous tetrahydrofuran (100 mL) under argon gas. Warm the reaction mixture to 40° C. and add in small portions 4-cyano-3-fluorobenzoic acid (5.0 g, 30.28 mmol) over a 1 hr period. Stir the reaction mixture at 40° C. for 4 hrs and then at room temperature overnight. Cool the reaction mixture to 0° C. and quench by the sequential addition of water (5 mL), 15% sodium hydroxide solution (17 mL), and water (5 mL). Allow the mixture to warm-up to room temperature and stir for 1 hr. Filter the precipitate through diatomaceous earth and concentrate the filtrate to provide the title compound (4.4 g, 28.4 mmol).

reactant | lithium aluminum hydride | 1M | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 4-cyano-3-fluorobenzoic acid | 30.28 mmol, 5.0 g | C(#N)C1=C(C=C(C(=O)O)C=C1)F | C8H4FNO2
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 121 mmol, 121 mL | O1CCCC1 | C4H8O
product | (4-Aminomethyl-3-fluoro-phenyl)-methanol | 28.4 mmol, 4.4 g | NCC1=C(C=C(C=C1)CO)F | C8H10FNO
